US09399646B2
Step 2: 5-(4-Iodophenyl)isoxazol-3-ol
To a solution of ethyl 3-(4-iodophenyl)propiolate (420 mg, 1.39 mmol) in MeOH (10 mL), were added hydroxylamine hydrochloride (391 mg, 5.20 mmol) and KOH (5 M in methanol, 1.7 mL, 8.5 mmol). The mixture was stirred at room temperature overnight and then concentrated in vacuo. The residue was redissolved in water (15 mL) and acidified with 2 M aqueous HCl to pH 2˜3. The precipitate was collected by filtration to afford the title compound (228 mg, 57%). 1H NMR (DMSO-d6, 400 MHz): δ 11.51 (brs, 1H), 7.94 (d, 2H), 7.65 (d, 2H), 6.67 (s, 1H).

reactant | ethyl 3-(4-iodophenyl)propiolate | 1.39 mmol, 420 mg | IC1=CC=C(C=C1)C#CC(=O)OCC | C11H9IO2
reactant | hydroxylamine hydrochloride | 5.20 mmol, 391 mg | Cl.NO
reactant | KOH | 8.5 mmol, 5 M, 1.7 mL | [OH-].[K+]
solvent | MeOH | 10 mL | CO | CH4O
product | 5-(4-Iodophenyl)isoxazol-3-ol | 228 mg, 57% | IC1=CC=C(C=C1)C1=CC(=NO1)O | C9H6INO2
